*$
*//-----------------------------------------------------------------------//
*//   Part	No.          : EMHS350ARA471MJA0G
*//   Date		: 2024/3/29
*//   Version	: 1.0
*//   Comment	: 
*//   Simulator	: P-Spice
*//   Temperature 	: 20deg-C/-40deg-C/125deg-C
*//   Model       	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMHS350ARA471MJA0G_20deg-C 1 2

C1 4 2 6.75e-05
C2 5 2 3.28e-04
C3 6 2 2.76e-05
R1 3 4 9.09e-02
R2 4 5 4.27e-02
R3 5 6 1.76e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMHS350ARA471MJA0G_-40deg-C 1 2

C1 4 2 7.00e-07
C2 5 2 6.00e-05
C3 6 2 2.30e-04
R1 3 4 6.61e-01
R2 4 5 4.00e-01
R3 5 6 5.40e-01
L1 1 3 4.50e-09

.ENDS


.SUBCKT EMHS350ARA471MJA0G_125deg-C 1 2

C1 4 2 2.02e-04
C2 5 2 2.22e-04
C3 6 2 3.17e-05
R1 3 4 3.37e-02
R2 4 5 1.68e-02
R3 5 6 1.08e-01
L1 1 3 4.50e-09

.ENDS
*$
